US07671043B2
1A. 3-Oxo-cyclobutanecarboxylic acid ethyl ester
A solution of 3-oxo-cyclobutanecarboxylic acid (6.0 g, 52.4 mmol; J. Org. Chem. 1988 53, 3841-3843), triethylorthoacetate (28.8 mL, 157 mmol) and toluene (120 mL) was heated at 110° C. for 5 hours. The reaction mixture was cooled to room temperature and quenched with 1.0 N HCl (120 mL). The organic phase was separated, washed with a saturated NaHCO3 and brine, dried (Na2SO4), filtered and concentrated in vacuo to provide the title compound (6.5 g, 80% yield) as an oil.

reactant | 3-oxo-cyclobutanecarboxylic acid | 52.4 mmol, 6.0 g | O=C1CC(C1)C(=O)O | C5H6O3
reactant | triethylorthoacetate | 157 mmol, 28.8 mL | C(C)C(C([O-])([O-])[O-])(CC)CC
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Oxo-cyclobutanecarboxylic acid ethyl ester | 6.5 g, 80% yield | C(C)OC(=O)C1CC(C1)=O | C7H10O3
